US05051413
A solution of 14.1 g of 2-isocyanopropionic acid methyl ester and 8.5 g of freshly distilled acrolein in 50 ml of tetrahydrofuran is added within a period of 20 minutes at 0°-5° under nitrogen to a solution of 17 g of anhydrous zinc chloride in 75 ml of tetrahydrofuran, and the whole is stirred for 45 hours at 0°-5°. The whole is poured onto 500 ml of 10% sodium hydrogen carbonate solution and extracted with 200 ml of dichloromethane. The organic phase is dried over sodium sulphateand concentrated by evaporation. Filtration of the residue over silica gel (ethyl acetate as eluant) yields 4-methyl-5-vinyl-2-oxazoline-4-carboxylicacid methyl ester. By hydrolysis of the 4-methyl-5-vinyl-2-oxazoline-4-carboxylic acid methyl ester in a manner analogous to that described in Example 1, 2-formylamino-2-methyl-3-hydroxy-4-pentenoic acid methyl ester is obtained. By reaction of the 2-formylamino-3-hydroxy-2-methyl-4-pentenoic acid methyl ester with thionyl bromide and subsequent treatment with triethyl phosphite in the manner described in Example 1, E-2-formylamino-2-methyl-5-diethylphosphono-3-pentenoic acid methyl ester is obtained in the form of a yellow oil:

reactant | 2-isocyanopropionic acid methyl ester | 14.1 g | COC(C(C)[N+]#[C-])=O | C5H7NO2
reactant | acrolein | C(=O)C=C | C3H4O
reactant | sodium hydrogen carbonate | 500 ml | C(O)([O-])=O.[Na+]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
catalyst | zinc chloride | 17 g | [Cl-].[Zn+2].[Cl-]
product | 4-methyl-5-vinyl-2-oxazoline-4-carboxylicacid methyl ester | COC(=O)C1(N=COC1C=C)C | C8H11NO3
